US05747518
2) 3-amino-2-(3-chlorophenyl)thiophene
The same procedures as described in Example 3 were carried out except that 3-nitro-2-(4-chlorophenyl)thiophene was replaced by 3-nitro-2-(3-chlorophenyl)thiophene. The yield was 71%. 1 H-NMR(CDCl3, δ value):3.84(2H, brs), 6.65(1H, d, J=5.1), 7.14(1H, d, J=5.1), 7.21(1H, dd, J=1.5, 8.8), 7.35(1H, dt, J=1.5, 8.8), 7.41(1H, dd, J=1.5, 8.8), 7.51-7.53(1H, m)

reactant | 3-nitro-2-(4-chlorophenyl)thiophene | [N+](=O)([O-])C1=C(SC=C1)C1=CC=C(C=C1)Cl | C10H6ClNO2S
reactant | 3-nitro-2-(3-chlorophenyl)thiophene | [N+](=O)([O-])C1=C(SC=C1)C1=CC(=CC=C1)Cl | C10H6ClNO2S
product | 3-amino-2-(3-chlorophenyl)thiophene | yield was 71% | NC1=C(SC=C1)C1=CC(=CC=C1)Cl | C10H8ClNS
